US05208228
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone
A solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-azido-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (28 mg) and triphenylphosphine (9 mg) in 1 ml of wet toluene is stirred at 70° C. overnight. The solvent is removed under reduced pressure, and the residue is purified by preparative tlc on silica gel to give the title compound.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-azido-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 28 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N=[N+]=[N-])O)C)C)O)=O | C42H66N4O11
reactant | triphenylphosphine | 9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-amino-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)O)C)C)O)=O | C42H68N2O11
